US08232405B2
Compound (7-3-4): Methyl 2,3-dihydrospiro[chromene-4,2′-[1,3]dioxolan]-6-ylacetate
A solution of the compound (7-1-4) (419 mg, 1.9 mmol), ethylene glycol (0.21 mL, 3.8 mmol), Methyl orthoformate (0.42 mL, 3.8 mmol), and p-Toluenesulfonic acid monohydrate (72 mg, 0.38 mmol) in toluene (8 mL) was heated under reflux for 3 hours. After cooling to room temperature, toluene (10 mL) was added thereto, and the mixed solution was washed with an aqueous saturated sodium bicarbonate solution (10 mL), water, and brine in this order. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was then distilled off under reduced pressure to obtain a crude product of the title compound (502 mg).

reactant | ethylene glycol | 3.8 mmol, 0.21 mL | C(CO)O | C2H6O2
reactant | Methyl orthoformate | 3.8 mmol, 0.42 mL | C(OC)([O-])[O-]
reactant | p-Toluenesulfonic acid monohydrate | 0.38 mmol, 72 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 2,3-dihydrospiro[chromene-4,2′-[1,3]dioxolan]-6-ylacetate | 502 mg | O1C2(OCC1)CCOC1=CC=C(C=C12)CC(=O)OC | C14H16O5
